US03932416
4-Cyclohexylamino-N(1H-tetrazol-5-yl)quinaldamide, hydrochloride
4-Chloro-N(1H-tetrazol-5-yl)quinaldamide (0.55 g), cyclohexylamine (3 ml) and water (5 ml) were heated on a steam bath for 3 hours and cooled. The solid was collected and dried, m.p. 245° (d).

reactant | 4-Chloro-N(1H-tetrazol-5-yl)quinaldamide | 0.55 g | ClC1=CC(C(=O)NC2=NN=NN2)=NC2=CC=CC=C12 | C11H7ClN6O
reactant | cyclohexylamine | 3 ml | C1(CCCCC1)N | C6H13N
solvent | water | 5 ml | O | H2O
product | 4-Cyclohexylamino-N(1H-tetrazol-5-yl)quinaldamide, hydrochloride | Cl.C1(CCCCC1)NC1=CC(C(=O)NC2=NN=NN2)=NC2=CC=CC=C12 | InChI=1S/C17H19N7O.ClH/c25-16(20-17-21-23-24-22-17)15-10-14(18-11-6-2-1-3-7-11)12-8-4-5-9-13(12)19-15;/h4-5,8-11H,1-3,6-7H2,(H,18,19)(H2,20,21,22,23,24,25);1H
